US07482346B2
1.1. 2-(ethoxy)-2-oxoethyl trans-4-(3-phenylprop-2-en-1-yl)piperazine-1-carboxylate
A solution of 1.40 g (6.93 mmol) of trans-1-cinnamylpiperazine and 1.74 g (7.76 mmol) of ethyl{[(phenoxy)carbonyl]oxy}acetate (J. Med. Chem., 1999, 42, 277-290) in 15 ml of toluene is heated at 80° C. overnight. It is evaporated to dryness and the residue is taken up in 50 ml of ethyl acetate. It is washed with 2 times 20 ml of water and 1 times 10 ml of saturated aqueous sodium chloride solution. It is dried over sodium sulphate and evaporated to dryness. The residue is purified by chromatography on silica gel, eluting with a 50/50 mixture of cyclohexane and ethyl acetate, then with ethyl acetate, to give 0.814 g of product in the form of a pale yellow oil.

reactant | trans-1-cinnamylpiperazine | 6.93 mmol, 1.40 g | C(\C=C\C1=CC=CC=C1)N1CCNCC1 | C13H18N2
reactant | ethyl{[(phenoxy)carbonyl]oxy}acetate | 7.76 mmol, 1.74 g | C(C)OC(COC(=O)OC1=CC=CC=C1)=O | C11H12O5
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(ethoxy)-2-oxoethyl trans-4-(3-phenylprop-2-en-1-yl)piperazine-1-carboxylate | 0.814 g | C1(=CC=CC=C1)/C=C/CN1CCN(CC1)C(=O)OCC(=O)OCC | C18H24N2O4
